US07034039B2
A mixed solution of tert-butyl 6-benzyloxy-2-isobutyl-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinecarboxylate (6.52 g, 12 mmol), phenylboronic acid (1.76 g, 14.4 mmol) and sodium carbonate (3.18 g, 30 mmol) in toluene (50 mL), ethanol (10 mL) and water (10 mL) was stirred under an argon atmosphere at room temperature for 10 min. To the obtained mixture was added tetrakis(triphenylphosphine)-palladium (0.69 g, 0.6 mmol) and the mixture was refluxed under heating under an argon atmosphere for 10 h. The reaction mixture was poured into water and extracted with ethyl acetate. After washing the extract with water, the extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl 6-benzyloxy-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinecarboxylate (5.01 g, 86.4%) as crystals.

reactant | tert-butyl 6-benzyloxy-2-isobutyl-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydro-3-isoquinolinecarboxylate | 12 mmol, 6.52 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)OC(C)(C)C)OS(=O)(=O)C(F)(F)F | C26H28F3NO7S
reactant | phenylboronic acid | 14.4 mmol, 1.76 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 30 mmol, 3.18 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)-palladium | 0.6 mmol, 0.69 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl 6-benzyloxy-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinecarboxylate | 5.01 g, 86.4% | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C31H33NO4
